US04034090
5-Methoxy-2-thioxo-1,3,4-thiadiazoline (4.43 g.) and sodium bicarbonate (2.27 g.) in water (20 cc.) are added to the sodium salt of 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (12.2 g.) in a buffer (100 cc.) of pH 6.5. The mixture is heated under a nitrogen atmosphere to 50° C., for 5 hours. It is allowed to cool and treated with decolourising charcoal. Ethyl acetate (100 cc.) is added and the mixture is brought to pH 2.5 by adding 5 N hydrochloric acid while stirring. The organic phase is separated off and the aqueous phase is again extracted with ethyl acetate (160 cc.). The combined organic extracts are dried over sodium sulphate, treated with decolourising charcoal and then concentrated to dryness under reduced pressure (20 mm.Hg). A residue (11.5 g.) is obtained, and is triturated with acetonitrile (8 cc.) and isopropyl ether (8 cc.). A solid (2.4 g.) is filtered off and recrystallised from acetonitrile (375 cc.) and isopropyl ether (400 cc.) to give 2-carboxy-3-[(5-methoxy-1,3,4-thiadiazol-2-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (1.52 g.) m.p. 208° C.

reactant | 5-Methoxy-2-thioxo-1,3,4-thiadiazoline | 4.43 g | COC1N=NC(S1)=S | C3H4N2OS2
reactant | sodium bicarbonate | 2.27 g | C([O-])(O)=O.[Na+]
reactant | sodium | [Na] | Na
reactant | 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 12.2 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C15H14N2O7S3
reactant | charcoal | C | CH4
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | water | 20 cc | O | H2O
solvent | Ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
product | 2-carboxy-3-[(5-methoxy-1,3,4-thiadiazol-2-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 1.52 g | C(=O)(O)C=1N2C(C(C2SCC1CSC=1SC(=NN1)OC)NC(CC=1SC(SC1)=O)=O)=O | C16H14N4O6S5
